US05079243
(+)-5-(7-benzofuranyl)-8-chloro-7-methoxymethyloxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine
(+)-5-(7-benzofuranyl)-8-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-ol (1.64 g, 0.005 mol) is suspended in dry ethanol (50 ml). Potassium-tert.-butylate (1.12 g, 0.010 mol) and potassiumiodide (0.10 g) are added. To the resulting solution chloromethyl methyl ether (0.84 g, 0.010 mol) is added. The reaction mixture is stirred for 3 hours. The resulting suspension is filtered and the filtrate evaporated to dryness under reduced pressure. The residue is chromatographed on a silicia-gel column, using dichloromethane/methanol (25:1) as the eluent. The fractions containing the product are collected and evaporated to dryness under reduced pressure.

reactant | (+)-5-(7-benzofuranyl)-8-chloro-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-ol | 0.005 mol, 1.64 g | O1C=CC2=C1C(=CC=C2)C2CN(CCC1=C2C=C(C(=C1)Cl)O)C | C19H18ClNO2
reactant | potassiumiodide | 0.10 g | [I-].[K+]
reactant | chloromethyl methyl ether | 0.010 mol, 0.84 g | COCCl | C2H5ClO
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (+)-5-(7-benzofuranyl)-8-chloro-7-methoxymethyloxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | O1C=CC2=C1C(=CC=C2)C2CN(CCC1=C2C=C(C(=C1)Cl)OCOC)C | C21H22ClNO3
